US05532235
4-(4-Nitrobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine
To a solution of 10.71 g of 5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine and 19.4 ml of triethylamine in 150 ml of dichloromethane under argon is added in small portions 4 -nitrobenzoyl chloride (exothermic). The mixture is stirred for 3 hours at 25° C. and then washed with water, sodium bicarbonate solution, brine and dried (Na2SO4). The solvent is removed, the residue dried under vacuum and recrystallized by dissolving in hot ethyl acetate and diluting with hexane. Chilling overnight and filtering gives 16 g of light brown crystals, m.p. 141°14 142° C.

reactant | 5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | 10.71 g | S1C=CC=2NCCCCC21 | C8H11NS
reactant | triethylamine | 19.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4 -nitrobenzoyl chloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-(4-Nitrobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | 16 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(CCCC2)SC=C3)C=C1 | C15H14N2O3S
